Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
amoxicillin
 
Attending: ___
 
Chief Complaint:
C6 Radiculopathy 
 
Major Surgical or Invasive Procedure:
___ - C5-6 ACDF
 
History of Present Illness:
Ms. ___ is here for neck and arm pain,

For about a year and a half she is having neck pain and right
more then left arm pain. Most of the pain is in her right arm.
The pain does not radiate into her hand. He neck hurts about 4
hours a day. 

She denies any numbness but endorses some paresthesias down the
right arm. She rates the arm pain and neck pain ___. He neck
pain is not constant. Seventy present of her pain is in her arm. 


Ms. ___ is here for neck and arm pain,

For about a year and a half she is having neck pain and right
more then left arm pain. Most of the pain is in her right arm.
The pain does not radiate into her hand. He neck hurts about 4
hours a day. 

She denies any numbness but endorses some paresthesias down the
right arm. She rates the arm pain and neck pain ___. He neck
pain is not constant. Seventy present of her pain is in her arm. 


She has a disc osteophyte complex at C5-C6. 
There is cervical stenosis with spinal cord compression and
compression of the C6 nerve root.

She will try physical therapy and if she does not improve we 
will
proceed with an ACDF C5-6.

 
Past Medical History:
Epilepsy, CAD, DEPRESSION
appendectomy, rhinoplasty, mitral valve
repair

 
Social History:
___
Family History:
NC
 
Physical Exam:
ON DISCHARGE:
___ 
   Intr  Delt  Tri Bi  IP  Quad  Ham  AT  ___  ___

No clonus or ___

Incision slightly raised, but no evidence of hematoma. Pt 
reports no issues swallowing. 

 
Pertinent Results:
Please see OMR for pertinent imaging and lab results. 
 
Brief Hospital Course:
___ is a ___ year old female with C6 radiculopathy 
secondary to osteophyte and compression of C6 nerve root, who 
presents for elective C5-C6 ACDF

#C6 radiculopathy 
Patient presented to pre-op area, was assessed by anesthesia and 
taken to the OR on ___ for C5-C6 ACDF. Patient tolerated the 
procedure well. Please see formal op report in OMR for further 
intraoperative details. Patient was successfully extubated in 
the OR and transferred to the PACU for further care. She 
remained stable in the PACU and was later transferred to the 
floor. While in the PACU, patient had a self reported seizure 
where she felt some parasthesias in her arm. She was ready for 
discharge on ___. Prior to her discharge to home, she was 
reminded that she cannot drive for 6 months following a seizure. 
She expressed understanding and that this issue was covered by 
her epilepsy doctor. 
 
Medications on Admission:
- atorvastatin 10mg daily
- carbamazepinw 200mg TID
- clonazepam 1mg BID
- Ranitidine 150mg BID PRN
- ASA 81mg daily
- Vit D3 1000 units daily

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever 
Do not exceed 4 grams in 24 hours  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
3.  Atorvastatin 10 mg PO QPM  
4.  CarBAMazepine 200 mg PO TID  
5.  ClonazePAM 1 mg PO BID  
6.  Ranitidine 150 mg PO BID:PRN heartburn  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C6 Radiculopathy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

ACDF

Surgery

- Your dressing may come off on the second day after surgery. 

- **Your incision is closed with dissolvable sutures underneath 
the skin and steri strips. You do not need suture removal. Do 
not remove your steri strips, let them fall off.

- Please keep your incision dry for 72 hours after surgery.

- Please avoid swimming for two weeks.

- Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity

- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.

- You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.

- No driving while taking any narcotic or sedating medication. 

- No contact sports until cleared by your neurosurgeon. 

- Do NOT smoke. Smoking can affect your healing and fusion.

Medications

- ***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 

- Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… for 2 weeks.

- You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

- It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:

- Severe pain, swelling, redness or drainage from the incision 
site. 

- Fever greater than 101.5 degrees Fahrenheit

- New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___